US08685418B2
To a solution of 1-amino-2-propanol (15 g, 0.199 mol) in ethanol (300 ml) was added cyclohexanone (31.4 mL, 0.299 mol). The reaction mixture was stirred at 0-10° C. for 10 minutes. Sodium borohydride (10.8 g, 0.285 mol) was added at 0° C., then stirred at rt for 15 minutes. The resultant reaction mixture was quenched with water, filtered through the Celite® reagent, and solvent was evaporated. The residue was dissolved in 2N HCl, washed with ethyl acetate; the pH of the aqueous layer was adjusted to 8 using saturated sodium bicarbonate solution. The compound was extracted with ethyl acetate. The organic layer was dried over sodium sulphate, concentrated to dryness, and the crude material was subjected to column chromatography to obtain 1-(cyclohexylamino)propan-2-ol. Yield: 22 g (70.1%); 1H NMR (400 MHz, DMSO-d6) δ 8.25 (bs, 1 H), 5.25 (bs, 1 H), 3.95-3.91 (m, 1 H), 2.89-2.88 (dd, J=6, 9 Hz, 2 H), 2.71-2.66 (m, 1 H), 2.00-1.99 (m, 2 H), 1.75-1.72 (m, 2 H), 1.60-1.57 (m, 1 H), 1.36-0.93 (m, 8 H).

reactant | 1-amino-2-propanol | 0.199 mol, 15 g | NCC(C)O | C3H9NO
reactant | cyclohexanone | 0.299 mol, 31.4 mL | C1(CCCCC1)=O | C6H10O
reactant | Sodium borohydride | 0.285 mol, 10.8 g | [BH4-].[Na+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1-(cyclohexylamino)propan-2-ol | C1(CCCCC1)NCC(C)O | C9H19NO
